US06825198B2
Preparation of Intermediate 4-(2-Chloro-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester (I-1a):
To a solution of 2,4-dichloropyrimidine (3.00 g, 20.1 mmol) in 100 mL of ethanol was added powdered sodium carbonate (2.1 g, 20.1 mmol) and piperazine-1-carboxylic acid tert-butyl ester (3.75 g, 20.1 mmol). The reaction was heated to reflux for 5 hours, then cooled to room temperature and concentrated in vacuo. The residue was taken up in 400 mL of ethyl acetate and extracted with water (100 mL) and brine (100 mL). The organic phase was then dried over sodium sulfate, filtered, and concentrated in vacuo to a clear oil. Flash column chromatography (silica gel, gradient elution from 10% ethyl acetate-hexanes to 50% ethyl acetate-hexanes) yielded 4.63 g of the title compound (I-1a).

reactant | 2,4-dichloropyrimidine | 20.1 mmol, 3.00 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 20.1 mmol, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | piperazine-1-carboxylic acid tert-butyl ester | 20.1 mmol, 3.75 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(2-Chloro-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 4.63 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)Cl | C13H19ClN4O2
